US07713996B2
A solution of 3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-tert-butyl ester (1.0 g, 3.61 mmol) in dimethylformamide (20 ml) was treated with diisopropyl ethyl amine (0.51 g, 3.97 mmol, 1.1 equiv.), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluoro-phosphate (1.27 g, 3.97 mmol, 1.1 equiv.) and 4-amino-benzoic acid ethyl ester (0.65 g, 3.97 mmol, 1.1 equiv.). The mixture was stirred at room temperature overnight, then the solvent was evaporated and the residue purified by flash chromatography (heptane/ethyl acetate gradient) to afford 7-(4-ethoxycarbonyl-phenylcarbamoyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as a white solid, 1.1 g (70%). MS (ISP): m/e=423.1 (M−H).

reactant | 3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-tert-butyl ester | 3.61 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(=O)O | C15H19NO4
reactant | diisopropyl ethyl amine | 3.97 mmol, 0.51 g, 1.1 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluoro-phosphate | 3.97 mmol, 1.27 g, 1.1 equiv. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-amino-benzoic acid ethyl ester | 3.97 mmol, 0.65 g, 1.1 equiv. | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-(4-ethoxycarbonyl-phenylcarbamoyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(NC1=CC=C(C=C1)C(=O)OCC)=O | C24H28N2O5
